US07655671B2
Synthesis of 17-cyclobutylmethyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (compound 2.HCl)
A mixture of 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (500 mg, 1.19 mmol), potassium carbonate (1.00 g, 7.24 mmol) and cyclobutylmethylbromide (0.6 ml, 5.43 mmol) in water-free N,N-dimethylformamide (7 ml) was stirred for 24 h under exclusion of moisture and under nitrogen at 80° C. (bath temperature). After filtration from the inorganic residue, which was washed three times each time with 20 ml dichloromethane, the filtrate was evaporated down under reduced pressure. The oily residue was dissolved in 100 ml dichloromethane, washed with water (3×100 ml) and saturated sodium chloride solution (4×100 ml), dried over sodium sulphate and evaporated down. The evaporation residue (520 mg of brown oil) was purified by column chromatography (silica gel; CH2Cl2/MeOH/conc. NH4OH 250:2:0.5), the oily evaporation residue dissolved in 10 ml ether and precipitated by the addition of etherial HCl. Yield: 0.40 g (69%) of the compound 2.HCl as colourless crystals. Fp. 128-133° C.; MS (CI): 488 (M++1); IR (KBr): 1728 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): δ 8.48 (s, wide, HN+), 7.30-7.15 (m, 5 arom. H), 6.87 (d, 1 arom. H, J=8.4 Hz), 6.77 (d, 1 arom. H, J=8.4 Hz), 4.93 (s, CH-5), 3.81 (s, CH3O).

reactant | 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | 1.19 mmol, 500 mg | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4)=O)OCCCC4=CC=CC=C4)OC
reactant | potassium carbonate | 7.24 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclobutylmethylbromide | 5.43 mmol, 0.6 ml | C1(CCC1)CBr | C5H9Br
solvent | water | 7 ml | O | H2O
product | 17-cyclobutylmethyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | Cl.C1(CCC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)OCCCC1=CC=CC=C1 | InChI=1S/C31H37NO4.ClH/c1-34-25-13-12-23-19-26-31(35-18-6-11-21-7-3-2-4-8-21)15-14-24(33)29-30(31,27(23)28(25)36-29)16-17-32(26)20-22-9-5-10-22;/h2-4,7-8,12-13,22,26,29H,5-6,9-11,14-20H2,1H3;1H/t26-,29+,30+,31-;/m1./s1
